US08030499B2
Step 104-1: Synthesis of 5-chloro-3-hydroxy-3-(2-vinylphenyl)-1,3-dihydro-2H-indol-2-one
With 10.0 g of 1-bromo-2-vinyl benzene and 4.72 g of 5-chloroisatin as starting materials, 5.71 g of the title compound (light brown solid) was obtained by a similar method to Step 21-1.

reactant | 1-bromo-2-vinyl benzene | 10.0 g | BrC1=C(C=CC=C1)C=C | C8H7Br
reactant | 5-chloroisatin | 4.72 g | ClC=1C=C2C(C(NC2=CC1)=O)=O | C8H4ClNO2
product | 5-chloro-3-hydroxy-3-(2-vinylphenyl)-1,3-dihydro-2H-indol-2-one | 5.71 g | ClC=1C=C2C(C(NC2=CC1)=O)(C1=C(C=CC=C1)C=C)O | C16H12ClNO2
